US09029421B2
Preparation of Arformoterol
4-benzyloxy-3-formylamino-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol (120 gms, 0.23 M), 10% Pd/C (12 gms) and denatured spirit (0.6 lit) were introduced in an autoclave. The reaction mass was hydrogenated by applying 4 kg hydrogen pressure at 25-30° C. for 3 hrs. The catalyst was removed by filtration and the clear filtrate concentrated under reduced pressure below 40° C. to yield the title compound. (63 gms, 80%).

reactant | 4-benzyloxy-3-formylamino-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol | 0.23 M, 120 gms | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(CC2=CC=C(C=C2)OC)C)CC2=CC=CC=C2)O)C=C1)NC=O | C33H36N2O4
reactant | hydrogen | 4 kg | [H][H] | H2
catalyst | Pd/C | 12 gms | [Pd] | Pd
product | Arformoterol | C[C@H](CC=1C=CC(=CC1)OC)NC[C@@H](C=2C=CC(=C(C2)NC=O)O)O | C19H24N2O4
